US04720572
Ethyl 4-propionyloxy-3-oxobutyrate
A solution of 71 ml of ethyl 4-chloro-3-oxobutyrate in 165 ml of toluene is added to a boiling solution of 73 ml of propionic acid and 132 ml of triethylamine in 833 ml of toluene in the course of 30 minutes. The mixture is boiled under reflux for 90 minutes and then cooled, the triethylamine hydrochloride which has precipitated out is filtered off with suction and extracted twice with 300 ml of water each time and the solvent is distilled off in vacuo. The residue is subjected to fractional distillation under a high vacuum.

reactant | ethyl 4-chloro-3-oxobutyrate | 71 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | propionic acid | 73 ml | C(CC)(=O)O | C3H6O2
reactant | triethylamine | 132 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 165 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 833 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-propionyloxy-3-oxobutyrate | C(CC)(=O)OCC(CC(=O)OCC)=O | C9H14O5
